US07417060B2
To a solution of 3-(4-bromophenyl)propanamide (1.59 g) in tetrahydrofuran (24 ml) was added lithium aluminum hydride (370 mg) and the mixture was refluxed for 1.5 hours under nitrogen atmosphere. After cooling to room temperature, the reaction mixture was poured into 1N aqueous sodium hydroxide solution (100 ml). The mixture was extracted with ethyl acetate and the organic layer was washed with water and brine and dried over magnesium sulfate. Filtration followed by evaporation under reduced pressure gave 3-(4-bromophenyl)-1-propanamine (1.55 g) as a yellow oil.

reactant | 3-(4-bromophenyl)propanamide | 1.59 g | BrC1=CC=C(C=C1)CCC(=O)N | C9H10BrNO
reactant | lithium aluminum hydride | 370 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 24 ml | O1CCCC1 | C4H8O
product | 3-(4-bromophenyl)-1-propanamine | 1.55 g | BrC1=CC=C(C=C1)CCCN | C9H12BrN
